US06670372B2
Using the general method of Example 1 Part A, 2-(2-octyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (4.8 g, 14.75 mmol) was reacted with propargyl bromide (80% in toluene, 4.93 mL, 44.25 mmol) to provide 4.84 g of 2-octyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as a brown solid.

reactant | 2-(2-octyl-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 14.75 mmol, 4.8 g | C(CCCCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C20H27N3O
reactant | propargyl bromide | 44.25 mmol, 4.93 mL | C(C#C)Br | C3H3Br
product | 2-octyl-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 4.84 g | C(CCCCCCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C23H29N3O
